US04853408
3 ml of 50% sodium hydroxide solution and then 1.484 g of indole-4-carboxaldehyde were added to a solution of 2.55 g of 1-[2-{3-(1,1-dimethylethylamino)-propoxy}-phenyl]-ethanone in 35 ml of ethanol and the mixture was stirred under an inert atmosphere for 20 minutes. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over a deshydrant, filtered and evaporated to dryness under reduced pressure. The residue was chromatographed over silica and eluted with a 9-1 ethyl acetate-triethylamine mixture to obtain 2.804 g of 1-[2-{3-(1,1-dimethylethylamino)-propoxy}-phenyl]-3-[1H-indol-4-yl]-2-propen-1-one.

reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | indole-4-carboxaldehyde | 1.484 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 1-[2-{3-(1,1-dimethylethylamino)-propoxy}-phenyl]-ethanone | 2.55 g | CC(C)(C)NCCCOC1=C(C=CC=C1)C(C)=O | C15H23NO2
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[2-{3-(1,1-dimethylethylamino)-propoxy}-phenyl]-3-[1H-indol-4-yl]-2-propen-1-one | 2.804 g | CC(C)(C)NCCCOC1=C(C=CC=C1)C(C=CC1=C2C=CNC2=CC=C1)=O | C24H28N2O2
